US07855290B2
N-{4-[(2-{[(4-Azetidin-1-ylpiperidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]-2-fluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
To a solution of phenyl N-[4-(3-fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-phenoxycarbonylcarbamate (50.0 mg) in N,N-dimethylformamide (1.0 ml) were added 4-(azetidin-1-yl)piperidine dihydrochloride (79.9 mg), triethylamine (0.105 ml) and water (0.050 ml), followed by stirring at room temperature for 24 hr. The reaction mixture was partitioned between ethyl acetate and a 1N aqueous solution of sodium hydroxide. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (Fuji Silysia NH, ethyl acetate, then ethyl acetate:methanol=20:1). Fractions containing the target compound were concentrated. To the residue was added diethyl ether:hexane=1:3, and the precipitate was collected by filtration. This was washed with hexane and dried under aeration to provide the titled compound as white powder (22.9 mg, 51.7%).

reactant | phenyl N-[4-(3-fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-phenoxycarbonylcarbamate | 50.0 mg | FC=1C=C(OC2=CC(=NC=C2)N(C(OC2=CC=CC=C2)=O)C(=O)OC2=CC=CC=C2)C=CC1NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O | C36H26F2N4O7
reactant | 4-(azetidin-1-yl)piperidine dihydrochloride | 79.9 mg | Cl.Cl.N1(CCC1)C1CCNCC1
reactant | triethylamine | 0.105 ml | C(C)N(CC)CC | C6H15N
reactant | water | 0.050 ml | O | H2O
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | N-{4-[(2-{[(4-Azetidin-1-ylpiperidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]-2-fluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 22.9 mg, 51.7% | N1(CCC1)C1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | C31H32F2N6O4
